* H:\Documents\ShR2\SPICE Simulations\FilteringStageTesting.asc
V1 N013 0 SINE(0 75 60) AC 1 0
V2 Vin N013 SINE(0 50 500)
R5 N014 Vin 121k
R6 N018 N014 121k
R7 0 N019 121k
C1 N014 0 .022µF
C2 N019 Vin .022µ Rser=3.9
C3 N018 N019 .022µ Rser=3.9
V3 VCC 0 10
V4 VNEG 0 -10v
C4 N014 0 .022µF
R1 0 N019 121k
XU3 N018 N009 VCC VNEG N009 LTC6244HV
XU5 N018 N025 VCC VNEG N025 LTC6244HV
XU1 N015 N005 VCC VNEG N005 LTC6244HV
C5 N015 N004 680p
C6 N004 N009 2.2nF
R2 N015 0 10.5k
R3 N005 N004 6.98k
XU2 N016 N007 VCC VNEG N007 LTC6244HV
C7 N016 N006 1.5n
C8 N006 N005 6.8n
R4 N016 0 10.5k
R8 N007 N006 1.05k
XU7 0 N010 VCC VNEG N017 LTC6244HV
R12 N017 N010 5k
R13 N010 N003 1k
XU6 N029 N024 VCC VNEG N024 LTC6244HV
R14 N029 N026 10.5k
C13 0 N029 1n
XU8 N030 N021 VCC VNEG N021 LTC6244HV
R16 N030 N020 13.3k
R17 N020 N024 3.83k
C14 N021 N020 2.2n
C15 0 N030 1n
XU9 N031 N023 VCC VNEG N023 LTC6244HV
R18 N031 N022 4.99k
R19 N022 N021 1.47k
C16 N023 N022 15n
C17 0 N031 1n
XU11 0 N027 VCC VNEG N032 LTC6244HV
R22 N032 N027 5k
R23 N027 N023 1k
XU12 N033 N026 VCC VNEG N026 LTC6244HV
D1 N018 0 SMBJ24CA
R30 N001 Vin 100k
R31 N001 0 100k
R24 N028 N025 121k
R25 N033 N028 121k
R26 0 N034 121k
C20 N028 0 .022µF
C21 N034 N025 .022µ Rser=3.9
C22 N033 N034 .022µ Rser=3.9
C23 N028 0 .022µF
R27 0 N034 121k
XU4 N011 N008 VCC VNEG N008 LTC6244HV
R9 N011 N007 15.8k
C9 0 N011 100p
XU10 N012 N003 VCC VNEG N003 LTC6244HV
R10 N012 N002 11k
R11 N002 N008 4.87k
C10 N003 N002 470p
C11 0 N012 100p
.model D D
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.dio
;tran 0 .2 .1 .0001 uic
* FM Signal
* 60Hz Main
.ac oct 30 10 1000000
* 15kHz Pass -45dB Stop @ 50kHz Min GBWP 2.43MHz
* 15kHz pass -55.4dB Stop @ 3000Hz Min GBWP 1.965 MHz
.lib LTC5.lib
.backanno
.end
